US05279764
13.6 g of p-propylphenol and 32 g of 2,3-difluoro-4-pentyloxybiphenyl-4'-carboxylic acid (preparation of 4-pentyloxy-2,3-difluorobiphenyl-4'-carboxylic acid: pentyloxy-2,3-difluorobenzene is metalated with an equimolar amount of butyllithium and TMEDA under the customary conditions at -70° C. in THF, and the reaction mixture is then stirred at -70° C. for 4 hours and reacted with an equimolar amount of chlorotriisopropyl orthotitanate at the same temperature. The reaction mixture is allowed to warm slowly to -30+ C., an equimolar amount of ethyl cyclohexanone-4-carboxylate is then added and the mixture is stirred for 12 hours while warming slowly to room temperature. The reaction mixture is hydrolysed with ice-cold dilute hydrochloric acid, stirred briefly and filtered over celite. The filtrate is extracted with MTB ether and the organic phase is dried and evaporated. The residue is taken up in ethanol, a little hydrochloric acid is added and the mixture is boiled under reflux for 12 hours. After addition of water, the product is isolated in the customary manner and heated at the boiling point together with twice the molar amount of DDQ in toluene. The mixture is then worked up in the customary manner and the ester is hydrolysed with a small excess of ethanolic KOH at room temperature. The acid is purified by crystallization.) are initially introduced into 250 ml of methylene chloride together with a catalytic amount of DMAP, and a solution of 0.1 mol of DCC in methylene chloride is added dropwise at 0° C. The reaction mixture is stirred at room temperature for 12 hours, the dicyclohexylurea which has precipitated is then filtered off with suction and the organic phase is worked up in the customary manner. p-Propylphenyl 4-pentyloxy-2,3-difluorobiphenyl-4'-carboxylate is obtained.

reactant | p-propylphenol | 13.6 g | C(CC)C1=CC=C(C=C1)O | C9H12O
reactant | 2,3-difluoro-4-pentyloxybiphenyl-4'-carboxylic acid | 32 g | FC1=C(C=CC(=C1F)OCCCCC)C1=CC=C(C=C1)C(=O)O | C18H18F2O3
reactant | 4-pentyloxy-2,3-difluorobiphenyl-4'-carboxylic acid | C(CCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)O)F)F | C18H18F2O3
reactant | pentyloxy-2,3-difluorobenzene | C(CCCC)OC1=C(C(=CC=C1)F)F | C11H14F2O
reactant | butyllithium | C(CCC)[Li]
reactant | TMEDA | CN(C)CCN(C)C | C6H16N2
reactant | ethyl cyclohexanone-4-carboxylate | CCOC(=O)C1CCC(=O)CC1 | C9H14O3
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | KOH | [OH-].[K+]
reactant | DCC | 0.1 mol | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-Propylphenyl 4-pentyloxy-2,3-difluorobiphenyl-4'-carboxylate | C(CCCC)OC1=C(C(=C(C=C1)C1=CC=C(C=C1)C(=O)OC1=CC=C(C=C1)CCC)F)F | C27H28F2O3
